US08202858B2
2-Chloro-4-hydroxy-benzoic Acid Ethyl Ester
A solution of 2-chloro-4-hydroxy-benzonitrile (5.0 g, 32.6 mmol) in ethanol (125 ml) was treated with conc. sulphuric acid (25 ml) and the mixture heated at reflux for 3 days. Conc. sulphuric acid (25 ml) was added and the mixture was heated at reflux for another 2 days. The volatiles were removed in vacuo, and the aqueous residue was basified with saturated NaHCO3 and extracted 4 times with diethyl ether. The combined organic extracts were dried and concentrated in vacuo to yield the title compound (2.5 g, 38%).

reactant | 2-chloro-4-hydroxy-benzonitrile | 32.6 mmol, 5.0 g | ClC1=C(C#N)C=CC(=C1)O | C7H4ClNO
reactant | sulphuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
reactant | sulphuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 125 ml | C(C)O | C2H6O
product | 2-Chloro-4-hydroxy-benzoic Acid Ethyl Ester | 2.5 g, 38% | C(C)OC(C1=C(C=C(C=C1)O)Cl)=O | C9H9ClO3
